US09284272B2
A solution of 2-(4,5-dimethoxy-2-nitrophenyl)acetonitrile (0.22 g, 1 mmol) in ethanol (15 ml) was treated with tin chloride (0.50 g, 2.2 mmol) and heated to 70° C. for 72 hours. The reaction mixture was allowed to cool to room temperature, extracted with EtOAc and washed with 1N NaOH and water. The combined organic extracts were dried over MgSO4, filtered and concentrated. HPLC purification provided 5,6-dimethoxy-3H-indol-2-amine (12 mg, 6.2%). 1H NMR (400 MHz, DMSO) δ 11.82 (s, 1H), 9.80 (s, 1H), 9.54 (s, 1H), 7.11 (s, 1H), 6.82 (s, 1H), 4.10 (s, 2H), 3.77 (s, 3H), 3.73 (s, 3H). MS (APCI) m/z 193 (M+H)+.

reactant | 2-(4,5-dimethoxy-2-nitrophenyl)acetonitrile | 1 mmol, 0.22 g | COC1=CC(=C(C=C1OC)CC#N)[N+](=O)[O-] | C10H10N2O4
reactant | tin chloride | 2.2 mmol, 0.50 g | [Sn](Cl)(Cl)(Cl)Cl
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 5,6-dimethoxy-3H-indol-2-amine | 12 mg, 6.2% | COC=1C=C2CC(=NC2=CC1OC)N | C10H12N2O2
